Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Allegra / Augmentin / IV Dye, Iodine Containing / Ciprofloxacin 
/ Erythromycin / Prednisone / Sulfa (Sulfonamide Antibiotics) / 
Tetracycline / Triamterene / Zithromax
 
Attending: ___.
 
Chief Complaint:
consulted for ___ found on head CT
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Pt is ___ y/o F with h/o htn and hypercholesterolemia who
presents with parafalcine subdural hematoma after fall last
evening.  At approximately 9:30 pm, pt was walking back to her
house after placing a letter in her mailbox when she tripped on
the stairs and fell forward striking her face on the concrete. 
Pt denies loss of consciousness.  Pt states that she was 
bleeding
significantly from her nose.  She cleaned herself up and had her
son take her to OSH.  At OSH, pt had CT scan which revealed a 3
mm parafalcine subdural hematoma.  

Pt complaining of pain from her nose.  No lightheadedness,
dizziness, vision changes, or focal weakness.  No fevers, 
chills,
nausea/vomiting, chest pain, shortness of breath, cough, abd
pain, diarrhea, hematuria, or dysuria.

 
Past Medical History:
htn
hypercholesterolemia
melanoma
s/p right shoulder surgery
s/p right knee surgery
s/p oophorectomy

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
PE:
T 99.4  P 84  BP 169/84  R 20  SaO2 97% 2L 
Gen: NAD.
HEENT: abrasion on nose, EOMI 
Pupils: ___ b/l     
Neck: Supple. 
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact.  No dysarthria.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3to2
mm bilaterally. Visual fields are full to confrontation. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength ___ throughout. No pronator drift

Sensation: Intact to light touch 

On Discharge:
ambualtory, a+o x 3, PERRL bilat ___, EOM's full without 
nystagmus, no drift, strength full, sensation intact
 
Pertinent Results:
Head CT ___:
Parafalcine SDH and subdural blood layering on tentorium on 
right. No shift of midline structures. 

 
Brief Hospital Course:
The patient was admitted to the neurosurgery service after a 
fall for Q4 hour neuro checks. She had no neurologic deficits 
upon admission. She remained stable and on ___ she had an 
episode of asymptomatic SVT with T wave inversion on ECG.  
Cardiac enzymes were sent x 2 sets which were negative. She 
remained stable on ___ and was screened for discharge by ___ 
who cleared her for home.  
 
Medications on Admission:
lotrel
atenolol
lasix
fosamax
klor-con

 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for fever/pain.  
2. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Amlodipine-Benazepril ___ mg Capsule Sig: One (1) Capsule PO 
once a day.  
5. Potassium Chloride 10 mEq Tablet Sustained Release Sig: One 
(1) Tablet Sustained Release PO QD ().  
6. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
parafalcine SDH

 
Discharge Condition:
Neurologically stable

 
Discharge Instructions:
•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, or 
Ibuprofen etc. 
•If you have been prescribed Dilantin (Phenytoin) for 
anti-seizure medicine, take it as prescribed and follow up with 
laboratory blood drawing in one week.  This can be drawn at your 
PCP’s office, but please have the results faxed to ___. 
If you have been discharged on Keppra (Levetiracetam), you will 
not require blood work monitoring.

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion, lethargy or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•New onset of the loss of function, or decrease of function on 
one whole side of your body.

 
Followup Instructions:
___